US05709867
(b) Preparation of methyl N-methyl-4-nitro-2-pyrrolecarboxylate
Following the basic procedure of Example 25(d), by reacting 2.9 g (17 mmol) of methyl 4-nitro-2-pyrrolecarboxylate with 1.1 ml of iodomethane, 2.8 g (89%) of the expected compound of melting point 122°-124° C. were obtained.

reactant | methyl 4-nitro-2-pyrrolecarboxylate | 17 mmol, 2.9 g | [N+](=O)([O-])C=1C=C(NC1)C(=O)OC | C6H6N2O4
reactant | iodomethane | 1.1 ml | IC | CH3I
product | methyl N-methyl-4-nitro-2-pyrrolecarboxylate | 2.8 g, 89% | CN1C(=CC(=C1)[N+](=O)[O-])C(=O)OC | C7H8N2O4
